US04220591
Ethyl-2-p-ethoxyphenyl-3-hydroxypropionate
Sodium ethoxide solution in ethanol (0.5 M, 18 ml) was added to a solution of ethyl-p-ethoxyphenylacetate (30 g) in dry dimethyl sulphoxide (180 ml) under argon cover. The mixture was stirred for 5 minutes and dry paraformaldehyde (5.4 g) added. After 19 h stirring, acetic acid (1.5 ml) was added, the solution quenched in ice and extracted with ether. The ether layer was washed with sodium bicarbonate solution and water, dried over anhydrous sodium sulphate, and the solvent evaporated. The resulting oil crystallized from petroleum ether (40°-60°) to yield 27.8 g product m.p. 35°-36° C.

reactant | Sodium ethoxide | [O-]CC.[Na+]
reactant | ethyl-p-ethoxyphenylacetate | 30 g | C(C)OC(CC1=CC=C(C=C1)OCC)=O | C12H16O3
reactant | paraformaldehyde | 5.4 g | C=O | CH2O
reactant | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 0.5 M, 18 ml | C(C)O | C2H6O
solvent | dimethyl sulphoxide | 180 ml | CS(=O)C | C2H6OS
product | Ethyl-2-p-ethoxyphenyl-3-hydroxypropionate | 27.8 g | C(C)OC(C(CO)C1=CC=C(C=C1)OCC)=O | C13H18O4
